US06562085B1
2,2′-{(Dibutylstannylene)bis[oxy-(5-tert-octyl-2,l-phenylene)]}bis-(2H-benzotriazole)
2-(2-Hydroxy-5-tert-octylphenyl)-2H-benzotriazole (64.6 g, 0.2 mol, TINUVIN® 329, CIBA), dibutyltin oxide (24.89 g, 0.1 mol) and toluene are charged to a laboratory reactor and the contents are heated to reflux and refluxed for seven hours. About half of the amount of toluene is removed by distillation. The reaction mass is cooled to 0-5° C. after the addition of 200 g of hexane. Any unreacted TINUVIN® 329 and dibutyltin oxide are removed by filtration. The solvent is then removed by distillation to yield the title compound (38 g, 43.3% yield) as a yellow resin whose structure is consistent with 1Hnmr analysis.

reactant | 2-(2-Hydroxy-5-tert-octylphenyl)-2H-benzotriazole | 0.2 mol, 64.6 g | OC1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
reactant | dibutyltin oxide | 0.1 mol, 24.89 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2′-{(Dibutylstannylene)bis[oxy-(5-tert-octyl-2,l-phenylene)]}bis-(2H-benzotriazole) | 38 g, 43.3% yield | C(CCC)[Sn](OC1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)N1N=C2C(=N1)C=CC=C2)(OC2=C(C=C(C=C2)C(C)(C)CC(C)(C)C)N2N=C1C(=N2)C=CC=C1)CCCC | InChI=1S/2C20H25N3O.2C4H9.Sn/c2*1-19(2,3)13-20(4,5)14-10-11-18(24)17(12-14)23-21-15-8-6-7-9-16(15)22-23;2*1-3-4-2;/h2*6-12,24H,13H2,1-5H3;2*1,3-4H2,2H3;/q;;;;+2/p-2
